US05410076
The literature has described various syntheses for TOCAP and related compounds. German Patent 949,568 (Kruckenberg) describes the reaction of caprolactam with various acyl halides including adipoyl dichloride in the presence of sodium hydroxide. Once sodium 6-aminocaproate has formed, the reactor is charged with a first portion acyl halide, sodium hydroxide and then a final portion acyl halide. Example 1 best details this process. Synthesis of TOCAP is reported by Zinner et al in J. Prakt. Chem. 17, 147-153 (1962). The procedure requires the addition of all the sodium hydroxide to be charged to the reaction vessel at the beginning of the synthesis. The reported yield is 70% of theory. Plate-like crystals are recovered through recrystallization from dimethyl formamide/water (2:5).

reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
reactant | adipoyl dichloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 6-aminocaproate | yield is 70% | NCCCCCC(=O)[O-].[Na+] | InChI=1S/C6H13NO2.Na/c7-5-3-1-2-4-6(8)9;/h1-5,7H2,(H,8,9);/q;+1/p-1
